US07592373B2
4.1.a. [2-(2-chloro-4-nitrophenoxy)ethyl]diethylamine
112 g (0.81 mol) of potassium carbonate are added to a solution of 35 g (0.202 mol) of 2-chloro-4-nitrophenol in 350 mL of DMF. Then the reaction mixture is combined with 35 g (0.203 mol) of (2-chloroethyl)diethylamine hydrochloride and stirred for 3 hours at 80° C. and 14 hours at ambient temperature. The reaction mixture is evaporated down and the residue is poured onto 1000 mL of water and this mixture is extracted three times with ethyl acetate. The combined organic phases are dried over sodium sulfate, the desiccant is filtered off and the filtrate is evaporated down. Yield: 49.6 g (90% of theory); C12H17ClN2O3 (M=272.73); calc.: molecular ion peak (M+H)+: 273; found: molecular ion peak (M+H)+: 273; Rf value: 0.36 (silica gel, dichloromethane/methanol (90:10)).

reactant | potassium carbonate | 0.81 mol, 112 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-4-nitrophenol | 0.202 mol, 35 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4ClNO3
reactant | (2-chloroethyl)diethylamine hydrochloride | 0.203 mol, 35 g | Cl.ClCCN(CC)CC
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | [2-(2-chloro-4-nitrophenoxy)ethyl]diethylamine | ClC1=C(OCCN(CC)CC)C=CC(=C1)[N+](=O)[O-] | C12H17ClN2O3
